US08183271B2
Methyl 4-{(3E)-4-{2-[(2-chlorobenzyl)oxy]phenyl}-2-[2-(4-cyanophenyl)ethyl]but-3-en-1-yl}-benzoate
A solution of 200 mg (0.49 mmol) of methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate in 10 ml of dry acetonitrile is mixed with 149.8 mg (0.73 mmol) of 2-chlorobenzyl bromide and 201 mg (1.46 mmol) of anhydrous potassium carbonate and heated under reflux for 12 hours. The mixture is then concentrated to dryness. The residue is taken up in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. The organic phase is concentrated. The resulting crude product is purified by preparative HPLC. 94 mg (0.17 mmol, 36% of theory) of a colorless foam are obtained.

reactant | methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate | 0.49 mmol, 200 mg | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)O | C27H25NO3
reactant | 2-chlorobenzyl bromide | 0.73 mmol, 149.8 mg | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
reactant | potassium carbonate | 1.46 mmol, 201 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Methyl 4-{(3E)-4-{2-[(2-chlorobenzyl)oxy]phenyl}-2-[2-(4-cyanophenyl)ethyl]but-3-en-1-yl}-benzoate | ClC1=C(COC2=C(C=CC=C2)/C=C/C(CC2=CC=C(C(=O)OC)C=C2)CCC2=CC=C(C=C2)C#N)C=CC=C1 | C34H30ClNO3
